US07649011B2
N-[2-Bromo-3-(4-fluoro-phenyl)-allyl]-N-(1-cyclohexylmethyl-pyrrolidin-2-ylmethyl)-3,4,5-trimethoxybenzamide
Experimental condition analogous to Example 12 were used with [2-bromo-3-(4-fluoro-phenyl)-allyl]-(1-cyclohexylmethyl-pyrrolidin-2-ylmethyl)-amine 0.15 g (0.36 mmol), 3,4,5-trimethoxy-benzoylchloride 0.1 g (0.47 mmol), and triethylamine 0.08 ml. Reverse phase high pressure liquid chromatography with a gradient of 20-80% acetonitrile phase lead to 120 mg of white powder as a TFA salt.

reactant | [2-bromo-3-(4-fluoro-phenyl)-allyl]-(1-cyclohexylmethyl-pyrrolidin-2-ylmethyl)-amine | 0.36 mmol, 0.15 g | BrC(CNCC1N(CCC1)CC1CCCCC1)=CC1=CC=C(C=C1)F | C21H30BrFN2
reactant | 3,4,5-trimethoxy-benzoylchloride | 0.47 mmol, 0.1 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
reactant | triethylamine | 0.08 ml | C(C)N(CC)CC | C6H15N
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | acetonitrile | C(C)#N | C2H3N
product | N-[2-Bromo-3-(4-fluoro-phenyl)-allyl]-N-(1-cyclohexylmethyl-pyrrolidin-2-ylmethyl)-3,4,5-trimethoxybenzamide | BrC(CN(C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CC1N(CCC1)CC1CCCCC1)=CC1=CC=C(C=C1)F | C31H40BrFN2O4
